US06756378B2
To a stirred solution of methyl 4-[N-Boc-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate (1.28 g, 3.11 mmol) in CH2Cl2 (30 ml) was added trifluoroacetic acid (10 ml) at rt, and the resulting mixture was stirred for 45 min. The mixture was concentrated in vacuo and poured into aq.NaHCO3, then extracted with CHCl3. The organic layer was washed with water, drying over anhydrous Na2SO4, and concentrated in vacuo to give methyl 4-[5-(R)-phenyl-2-(S)-pirrolidinylmethoxy]benzate (363 mg, quant.) as yellowish oil. The product was used for next reactions without further purification. 1H-NMR (CDCl3) δ1.71-1.83 (m, 2 H), 2.03-2.10 (m, 1 H), 2.15-2.24 (m, 1 H), 3.68-3.74 (m, 1 H), 3.89 (s, 3 H), 4.01-4.09 (m, 2 H), 4.28 (t, J=7.2 Hz, 1 H), 6.95 (d, J=8.8 Hz, 2 H), 7.22-7.27 (m, 1 H), 7.33 (t, J=8.0 Hz, 2 H), 7.42 (d, J=7.6 Hz, 2 H), 8.00 (d, J=8.8 Hz, 2 H); MS (ESI) m/z, 312 (M++H) 353 (M++CH3CN).

reactant | methyl 4-[N-Boc-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate | 3.11 mmol, 1.28 g | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@@H]1C1=CC=CC=C1)COC1=CC=C(C(=O)OC)C=C1 | C24H29NO5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-[5-(R)-phenyl-2-(S)-pirrolidinylmethoxy]benzate | 363 mg | C1(=CC=CC=C1)[C@H]1CC[C@H](N1)COC1=CC=C(C(=O)OC)C=C1 | C19H21NO3
